US04272534
A solution of sodium hydroxide pellets (37 g) in distilled water (140 cc) is added dropwise, in the course of 15 minutes, to a solution, cooled to 15° C., of 2-(6-methylpyrid-2-ylmethyl)isothiourea dihydrochloride (114.7 g) in distilled water (280 cc). The reaction mixture is heated to the boil and is then stirred for 35 minutes. After cooling to 20° C., the reaction mixture is extracted three times with diethyl ether (480 cc in total). The combined ether extracts are washed three times with distilled water (300 cc in total), dried over anhydrous sodium sulphate and concentrated under reduced pressure (20 mm Hg) at 30° C. 6-Methylpyrid-2-ylmethanethiol (55.4 g) is thus obtained in the form of a yellow oil.

reactant | sodium hydroxide | [OH-].[Na+]
reactant | 2-(6-methylpyrid-2-ylmethyl)isothiourea dihydrochloride | 114.7 g | Cl.Cl.CC1=CC=CC(=N1)CSC(N)=N
solvent | water | 140 cc | O | H2O
solvent | water | 280 cc | O | H2O
product | 6-Methylpyrid-2-ylmethanethiol | 55.4 g | CC1=CC=CC(=N1)CS | C7H9NS
